US08487112B2
To a solution of 100 g of ethyl 4-chloroacetoacetate in 300 ml of toluene and 100 ml of ethanol are added 6.7 ml of acetic acid. At 10° C.-30° C., with cooling, 46.5 g of 2-methoxyethylamine are added dropwise. Subsequently, the mixture is stirred at room temperature for 8 h and the solvent is removed under reduced pressure at temperatures of down to 35° C. 140.8 g of ethyl 4-chloro-3-(2-methoxyethylamino)but-2-enecarboxylate are obtained in a purity of 88% (this corresponds to 95% yield).

reactant | ethyl 4-chloroacetoacetate | 100 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | acetic acid | 6.7 ml | C(C)(=O)O | C2H4O2
reactant | 2-methoxyethylamine | 46.5 g | COCCN | C3H9NO
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-chloro-3-(2-methoxyethylamino)but-2-enecarboxylate | 140.8 g, 95% yield | ClCC(=CCC(=O)OCC)NCCOC | C10H18ClNO3
